US04374829
In the manner described in example 24, 2-oxo-4-phenylbutyric acid and L-phenylalanyl-L-proline are condensed in the presence of sodium cyanoborohydride to yield N-(1-carboxy-3-phenylpropyl)-L-phenylalanyl-L-proline.

reactant | 2-oxo-4-phenylbutyric acid | O=C(C(=O)O)CCC1=CC=CC=C1 | C10H10O3
reactant | L-phenylalanyl-L-proline | N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1 | C14H18N2O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | N-(1-carboxy-3-phenylpropyl)-L-phenylalanyl-L-proline | C(=O)(O)C(CCC1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1 | C24H28N2O5
